US07220744B2
d) 1-(5-Benzenesulfonyl-thiazol-2-yl)-piperazine hydrochloride
To a solution of 0.73 mmol 4-(5-benzenesulfonyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester in 10 ml dioxane was added dropwise 7.32 mmol hydrogen chloride solution (4 M in dioxane) and the mixture was stirred at 80° C. for 2.5 h. The reaction mixture was then cooled to 0° C. and diluted with ether. The resulting crystals were collected by filtration and washed with ether to afford the title compound as a light brown crystalline solid (yield 81%). MS (m/e): 309.9 (M+H+, 100%).

reactant | 4-(5-benzenesulfonyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.73 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)S(=O)(=O)C1=CC=CC=C1 | C18H23N3O4S2
reactant | hydrogen chloride | 7.32 mmol, 4 M | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 1-(5-Benzenesulfonyl-thiazol-2-yl)-piperazine hydrochloride | yield 81% | Cl.C1(=CC=CC=C1)S(=O)(=O)C1=CN=C(S1)N1CCNCC1 | InChI=1S/C13H15N3O2S2.ClH/c17-20(18,11-4-2-1-3-5-11)12-10-15-13(19-12)16-8-6-14-7-9-16;/h1-5,10,14H,6-9H2;1H
